US04110457
The mixture of 21.76 g of dl-1-(4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane, 6.3 ml of 10 N aqueous sodium hydroxide and 100 ml of dimethylsulphoxide is stirred at 60° for 2 hours, whereupon 8.91 g of 5-methyl-2-pyridylmethyl chloride are added. The whole is stirred at ambient temperature for 24 hours, diluted with 400 ml of water and extracted with methylene chloride. The extract is dried, evaporated, the residual oil taken up in isopropanol and the solution acidified with maleic acid in isopropanol until the pH of 5 is reached, to yield the dl-1-[4-(5-methyl-2-pyridylmethoxy)-phenyl]-2-(3,3-diphenylpropylamino)propane maleate, melting at 155°-157°.

reactant | 1-(4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane | OC1=CC=C(C=C1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO
reactant | sodium hydroxide | 10 N, 6.3 ml | [OH-].[Na+]
reactant | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
reactant | 5-methyl-2-pyridylmethyl chloride | 8.91 g | CC=1C=CC(=NC1)CCl | C7H8ClN
reactant | water | 400 ml | O | H2O
product | 1-[4-(5-methyl-2-pyridylmethoxy)-phenyl]-2-(3,3-diphenylpropylamino)propane maleate | C(\C=C/C(=O)O)(=O)O.CC=1C=CC(=NC1)COC1=CC=C(C=C1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H34N2O.C4H4O4/c1-24-13-16-29(33-22-24)23-34-30-17-14-26(15-18-30)21-25(2)32-20-19-31(27-9-5-3-6-10-27)28-11-7-4-8-12-28;5-3(6)1-2-4(7)8/h3-18,22,25,31-32H,19-21,23H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
